US05177075
5-Methoxy-4-methyl-1(2H)phthalazinone
To 0.37 g (1.48 mmol) of 2-acetyl-3-methoxy-N,N-diethylbenzamide* in 5 ml of water was added 5 ml of anhydrous hydrazine. This was heated at reflux for four hours, cooled and the resulting solid filtered and washed with water to provide 0.18 g (64%) of the desired product; mp 257°-260°.

reactant | 2-acetyl-3-methoxy-N,N-diethylbenzamide | 1.48 mmol, 0.37 g | C(C)(=O)C1=C(C(=O)N(CC)CC)C=CC=C1OC | C14H19NO3
reactant | hydrazine | 5 ml | NN | H4N2
solvent | water | 5 ml | O | H2O
product | 5-Methoxy-4-methyl-1(2H)phthalazinone | 0.18 g, 64% | COC1=C2C(=NNC(C2=CC=C1)=O)C | C10H10N2O2
